US07687664B2
Methyl (4′-methoxy-3′-oxiranylmethoxybiphenyl-3-yl)acetate
205 mg of Methyl (3′-hydroxy-4′-methoxybiphenyl-3-yl)acetate was dissolved in 3 ml of N,N-dimethylformamide, then 205 mg of glycidyl nocylate, 35 mg of cesium fluoride and 130 mg of potassium carbonate were added thereto, and the mixture was stirred at room temperature for 3 days. The reaction mixture was diluted with ethyl acetate and washed with 1N hydrochloric acid. The organic layer was dried over anhydrous magnesium sulfate and then filtered, and the filtrate was concentrated. The residue was purified by silica gel column chromatography, to give 79 mg of the title compound in the 4:1 hexane-ethyl acetate fraction.

reactant | Methyl (3′-hydroxy-4′-methoxybiphenyl-3-yl)acetate | 205 mg | OC=1C=C(C=CC1OC)C1=CC(=CC=C1)CC(=O)OC | C16H16O4
reactant | cesium fluoride | 35 mg | [F-].[Cs+]
reactant | potassium carbonate | 130 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | Methyl (4′-methoxy-3′-oxiranylmethoxybiphenyl-3-yl)acetate | 79 mg | COC1=C(C=C(C=C1)C1=CC(=CC=C1)CC(=O)OC)OCC1OC1 | C19H20O5
